US06927230B2
A mixture of 2-(4-methoxybenzoyl)-2-(6-methoxypyridin-3-yl)hydrazinecarboxamide (1.0 g, 3.16 mmol) in 10% sodium hydroxide solution (2 mL)-ethanol (3mL) was heated at 60° C. for 1.5 hours. After cooling, the solvent was removed under reduced pressure. Water was added to the residue and the mixture was adjusted pH to ca. 4 to 5. A generated precipitate was isolated by filtration, washed with water and small amount of ethyl acetate, dried in vacuo to give 5-(4-methoxyphenyl)-1-(6-methoxypyridin-3-yl)-1H-1,2,4-triazol-3-ol (685 mg, 72.6% yield).

reactant | 2-(4-methoxybenzoyl)-2-(6-methoxypyridin-3-yl)hydrazinecarboxamide | 3.16 mmol, 1.0 g | COC1=CC=C(C(=O)N(NC(=O)N)C=2C=NC(=CC2)OC)C=C1 | C15H16N4O4
reactant | ethanol | 3mL | C(C)O | C2H6O
solvent | sodium hydroxide | 2 mL | [OH-].[Na+]
product | 5-(4-methoxyphenyl)-1-(6-methoxypyridin-3-yl)-1H-1,2,4-triazol-3-ol | 685 mg, 72.6% yield | COC1=CC=C(C=C1)C1=NC(=NN1C=1C=NC(=CC1)OC)O | C15H14N4O3
